US04873255
5-[4-(2,5,7-Trimethyl-4-oxochroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dion
Following a procedure similar to that described in Example 1, but using 1.5 g of ethyl 2-chloro-3-[4-(2,5,7-trimethyl-4-oxochroman-2-ylmethoxy)phenyl]propionate (prepared as described in Preparation 29), 0.4 g of thiourea, 1.5 ml of sulfolane, 10 ml of ethylene glycol monomethyl ether and 5 ml of 2N aqueous hydrochloric acid, 1.13 g of the title compound were obtained as a pale yellow powder.

reactant | ethyl 2-chloro-3-[4-(2,5,7-trimethyl-4-oxochroman-2-ylmethoxy)phenyl]propionate | 1.5 g | ClC(C(=O)OCC)CC1=CC=C(C=C1)OCC1(OC2=CC(=CC(=C2C(C1)=O)C)C)C | C24H27ClO5
reactant | thiourea | 0.4 g | NC(=S)N | CH4N2S
reactant | sulfolane | 1.5 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | hydrochloric acid | 2N, 5 ml | Cl | ClH
solvent | ethylene glycol monomethyl ether | 10 ml | COCCO | C3H8O2
product | 5-[4-(2,5,7-Trimethyl-4-oxochroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dion | 1.13 g | CC1(OC2=CC(=CC(=C2C(C1)=O)C)C)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C23H23NO5S
